### PR TITLE
[Merged by Bors] - feat(MeasureTheory): add def `support` of a measure, and related API

### PR DESCRIPTION
**Pull request by JonBannon**
The definition of support given in terms of neighborhood filters, as well as basic topological lemmas including those related to restricted measures, proof that the support of the sum of measures is the union of the supports, and proof that support is monotone with respect to absolute continuity of measures.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 1]
```diff
@@ -364,6 +365,81 @@ end
...
 
+section Support
+
+namespace MeasureTheory
+namespace Measure
+
+open scoped Topology
+
+variable {X : Type*} [TopologicalSpace X] [MeasurableSpace X]
+
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean]: I would not expect this to be in `MeasureSpaceDef`. Why not just create a new file `Support.lean`? Then all (or almost all) of your results can go directly in that file. If, at some point, that file gets too long or else we want the definitions only available earlier in the import hierarchy, then we can split it, but I don't think there's any risk of that right now.

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 2]
```diff
@@ -364,6 +365,81 @@ end
...
+/-- A point `x` is in the support of `μ` iff `∃ᶠ u in (𝓝 x).smallSets, 0 < μ u`, which means
+`{u : Set X | 0 < μ x} ∉ (𝓝 x).smallSets`, i.e. any neighborhood of `x` contains a
+subset with positive measure. -/
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean]:
```suggestion
/-- A point `x` is in the support of `μ` if any open neighborhood of `x` has positive measure.
We provide the definition in terms of the filter-theoretic equivalent
`∃ᶠ u in (𝓝 x).smallSets, 0 < μ u`. -/
```

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 3]
```diff
@@ -364,6 +365,81 @@ end
...
+
+/-- A point `x` lies outside the support of `μ` iff some neighborhood of `x` has measure zero. -/
+lemma notMem_support_iff_exists {x : X} : x ∉ μ.support ↔ ∃ U ∈ 𝓝 x, μ U = 0 := by
+  simp [mem_support_iff_forall]
+
+lemma _root_.Filter.HasBasis.mem_measureSupport {ι : Sort*} {p : ι → Prop}
+    {s : ι → Set X} {x : X} (hl : (𝓝 x).HasBasis p s) :
+    x ∈ μ.support  ↔ ∀ (i : ι), p i → 0 < μ (s i) := by
+  simp only [mem_support_iff_forall]
+  exact hl.forall_iff (fun U V hUV hUpos => lt_of_lt_of_le hUpos (measure_mono hUV))
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean]: 1. Because it might come up frequently when working with the support and translating from filter language and back, I suggest adding:

```lean
lemma MeasureTheory.Measure.pos_mono {α : Type*} [MeasurableSpace α]
    (μ : Measure α) ⦃s t : Set α⦄ (h : s ⊆ t) (hs : 0 < μ s) :
    0 < μ t :=
  hs.trans_le <| μ.mono h
```

which parallels `MeasureTheory.measure_mono_null` (although I think that one should be renamed to allow for dot notation).

which should then allow you to write
```suggestion
lemma _root_.Filter.HasBasis.mem_measureSupport {ι : Sort*} {p : ι → Prop}
    {s : ι → Set X} {x : X} (hl : (𝓝 x).HasBasis p s) :
    x ∈ μ.support  ↔ ∀ (i : ι), p i → 0 < μ (s i) := by
  simp only [mem_support_iff_forall]
  exact hl.forall_iff μ.pos_mono
```

2. I think there are a few missing lemmas surround `Filter.smallSets`. In particular, I would add:

```lean
theorem Filter.frequently_smallSets' {α : Type*} {l : Filter α} {p : Set α → Prop}
    (hp : ∀ ⦃s t : Set α⦄, s ⊆ t → p s → p t) :
    (∃ᶠ s in l.smallSets, p s) ↔ ∀ t ∈ l, p t := by
  convert not_iff_not.mpr <| l.eventually_smallSets' (p := (¬ p ·)) (by tauto)
  simp

theorem Filter.HasBasis.frequently_smallSets {α : Type*} {ι : Sort*} {p : ι → Prop} {l : Filter α}
    {s : ι → Set α} {q : Set α → Prop} {hl : l.HasBasis p s}
    (hq : ∀ ⦃s t : Set α⦄, s ⊆ t → q s → q t) :
    (∃ᶠ s in l.smallSets, q s) ↔ ∀ i, p i → q (s i) := by
  rw [l.frequently_smallSets' hq, hl.forall_iff hq]

theorem Filter.HasBasis.eventually_smallSets {α : Type*} {ι : Sort*} {p : ι → Prop} {l : Filter α}
    {s : ι → Set α} {q : Set α → Prop} {hl : l.HasBasis p s}
    (hq : ∀ ⦃s t : Set α⦄, s ⊆ t → q t → q s) :
    (∀ᶠ s in l.smallSets, q s) ↔ ∃ i, p i ∧ q (s i) := by
  rw [l.eventually_smallSets' hq, hl.exists_iff hq]
```

This, with the above suggestion, would allow the proof of this lemma to become:

```suggestion
theorem _root_.Filter.HasBasis.mem_measureSupport {ι : Sort*} {p : ι → Prop}
    {s : ι → Set X} {x : X} (hl : (𝓝 x).HasBasis p s) :
    x ∈ μ.support ↔ ∀ (i : ι), p i → 0 < μ (s i) :=
  hl.frequently_smallSets μ.pos_mono
```

3. You should move this before `mem_support_iff_forall` and use it to golf that lemma with `Filter.basis_sets`

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 4]
```diff
@@ -364,6 +365,81 @@ end
...
+
+/-- The support of a measure equals the set of points whose open neighborhoods
+all have positive measure. -/
+lemma support_eq_forall_isOpen : μ.support =
+    {x : X | ∀ u : Set X, x ∈ u → IsOpen u → 0 < μ u} := by
+  simp [Set.ext_iff, (nhds_basis_opens _).mem_measureSupport]
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean]: I would suggest deleting this, as the "canonical" way to work with things will be to interact with `x ∈ μ.support` and use the lemmas above.
```suggestion
```

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 5]
```diff
@@ -364,6 +365,81 @@ end
...
+
+/-- If `x` is in the support of measure `μ` then all of its neighborhoods have positive measure. -/
+lemma measure_pos_of_mem_support {x : X} (h : x ∈ μ.support) :
+  ∀ U ∈ 𝓝 x, 0 < μ U := by rwa [mem_support_iff_forall] at h
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean]: This is just the reverse direction of `mem_support_iff_forall`. I'm not sure it's necessary, but if you really want it, just add an `alias`.
```suggestion
```

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 6]
```diff
@@ -364,6 +365,81 @@ end
...
+    (nhds_basis_opens _).frequently_iff]
+  grind
+
+lemma isOpen_compl_support {μ : Measure X} : IsOpen μ.supportᶜ :=
+  isOpen_compl_iff.mpr μ.isClosed_support
+
+open Set
+
+/-- If the complement of the support is Lindelöf, then the support of a measure is conull. -/
+lemma support_mem_ae_of_isLindelof (h : IsLindelof μ.supportᶜ) : μ.support ∈ ae μ := by
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean]: I would certainly follow this up with
```lean
/-- In a hereditarily Lindelöf space, the support of a measure is conull. -/
lemma support_mem_ae [HereditarilyLindelofSpace X] : μ.support ∈ ae μ :=
  support_mem_ae_of_isLindelof <| HereditarilyLindelof_LindelofSets μ.supportᶜ
```
because in that case (which is automatically implied by `[SecondCountableSpace X]`, and is quite common), the user won't need to supply the `IsLindelof` hypothesis.

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 7]
```diff
@@ -364,6 +365,81 @@ end
...
+lemma measure_pos_of_mem_support {x : X} (h : x ∈ μ.support) :
+  ∀ U ∈ 𝓝 x, 0 < μ U := by rwa [mem_support_iff_forall] at h
+
+lemma isClosed_support {μ : Measure X} : IsClosed μ.support := by
+  simp_rw [isClosed_iff_frequently, (nhds_basis_opens _).mem_measureSupport,
+    (nhds_basis_opens _).frequently_iff]
+  grind
+
+lemma isOpen_compl_support {μ : Measure X} : IsOpen μ.supportᶜ :=
+  isOpen_compl_iff.mpr μ.isClosed_support
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean]: I would follow this up with a number of basic facts:
```lean
lemma subset_compl_support_of_isOpen ⦃t : Set X⦄ (ht : IsOpen t) (h : μ t = 0) :
    t ⊆ μ.supportᶜ := by
  sorry

lemma subset_compl_support_of_isOpen ⦃t : Set X⦄ (ht : IsOpen t) (h : μ t = 0) :
    t ⊆ μ.supportᶜ := by
  sorry

lemma compl_support_eq_sUnion : μ.supportᶜ = ⋃₀ {t : Set X | IsOpen t ∧ μ t = 0} := by
  sorry

lemma support_eq_sInter : μ.support = ⋂₀ {t : Set X | IsClosed t ∧ μ tᶜ = 0} := by
  sorry
```

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean [hunk 8]
```diff
@@ -707,3 +707,41 @@ protected theorem comap (μ : Measure β) [IsFiniteMeasureOnCompacts μ] (f : α
...
+  intro U ⟨hxU, hU⟩
+  by_cases H : (s ∩ U).Nonempty
+  · exact Set.inter_nonempty_iff_exists_right.mpr H
+  · have h_restr : (μ.restrict s) U = μ (U ∩ s) := by
+      simp [Measure.restrict_apply hU.measurableSet, Set.inter_comm]
+    rw [(nhds_basis_opens x).mem_measureSupport] at hx
+    exact MeasureTheory.nonempty_of_measure_ne_zero
+      (ne_of_gt (h_restr ▸ hx U ⟨hxU, hU⟩))
+
+lemma support_restrict_subset_support {s : Set X} : (μ.restrict s).support ⊆ μ.support := by
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean]: This follows immediately from my suggested lemma `support_mono` (with assumption `μ ≤ ν`), so no need to include it.

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean [hunk 9]
```diff
@@ -707,3 +707,41 @@ protected theorem comap (μ : Measure β) [IsFiniteMeasureOnCompacts μ] (f : α
...
+   intro x hx
+   rw [mem_support_iff_forall] at *
+   intro U hU
+   exact lt_of_lt_of_le (hx U hU) <| restrict_apply_le _ _
+
+lemma support_restrict_subset_closure_inter_support [OpensMeasurableSpace X] {s : Set X} :
+    (μ.restrict s).support ⊆ closure s ∩ μ.support := by
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean]: I would prove this version directly, without the two preceding lemmas. In order to make working with this slightly easier, I suggest adding this lemma:
```lean
lemma mem_support_restrict [OpensMeasurableSpace X] {s : Set X} {x : X} :
    x ∈ (μ.restrict s).support ↔ ∃ᶠ u in (𝓝[s] x).smallSets, 0 < μ u := by
  sorry
```
In addition, I would prove the following lemma giving a "lower bound" on the size of the support of a restriction:
```lean
lemma interior_inter_support [OpensMeasurableSpace X] {s : Set X} :
    interior s ∩ μ.support ⊆ (μ.restrict s).support := by
  sorry
```

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 10]
```diff
@@ -364,6 +365,81 @@ end
...
+
+open Set
+
+/-- If the complement of the support is Lindelöf, then the support of a measure is conull. -/
+lemma support_mem_ae_of_isLindelof (h : IsLindelof μ.supportᶜ) : μ.support ∈ ae μ := by
+  refine compl_compl μ.support ▸ h.compl_mem_sets_of_nhdsWithin fun s hs ↦ ?_
+  simpa [compl_mem_ae_iff, isOpen_compl_support.nhdsWithin_eq hs]
+    using notMem_support_iff_exists.mp hs
+
+end Measure
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean]: There's a number of convenience results I would add for when you have a hereditarily lindelof space. Some of them we're adding because they can be `simp` lemmas.
```lean
variable [HereditarilyLindelofSpace X]

@[simp]
lemma measure_compl_support : μ (μ.support)ᶜ = 0 := sorry

lemma nonempty_inter_support_of_pos {s : Set X} (hμ : 0 < μ s) :
    (s ∩ μ.support).Nonempty :=
  sorry

-- this is optional, as with the common assumption `OpensMeasurableSpace` the
-- set will simply be measurable because it is open
@[simp]
lemma nullMeasurableSet_compl_support : NullMeasurableSet (μ.supportᶜ) μ := sorry

-- likewise, optional
@[simp]
lemma nullMeasurableSet_support : NullMeasurableSet μ.support μ := sorry

@[simp]
lemma measure_support : μ μ.support = μ Set.univ := sorry

lemma nonempty_support (hμ : μ ≠ 0) : μ.support.Nonempty := sorry

lemma nonempty_support_iff : μ.support.Nonempty ↔ μ ≠ 0 := sorry
```

**Review by j-loreaux — COMMENTED** [review]
Thanks for doing this!

There are some basic results still missing, such as:
```lean
@[simp]
lemma support_zero : (0 : Measure X).support = ∅ := sorry

lemma support_eq_univ [μ.IsOpenPosMeasure] : μ.support = Set.univ := sorry

lemma support_mono {ν : Measure X} (h : μ ≤ ν) : μ.support ≤ ν.support :=
  sorry
```

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean (hunk 8 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean]: Should I rename `AbsolutelyContinuous.support_mono`, or is that fine as it is?

Comment (j-loreaux) [reply Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean]: Fine as is.

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 11]
```diff
@@ -0,0 +1,285 @@
...
+and various descriptions of the complement of the support are provided.
+
+## Main definitions
+
+* `Measure.support` : the support of a measure `μ`, defined as
+  `{x | ∃ᶠ u in (𝓝 x).smallSets, 0 < μ u}` — equivalently, every neighborhood of `x`
+  has positive `μ`-measure.
+
+## Main results
+
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean:26]: You have a lot listed here. I wouldn't include the kitchen sink, just the highlights (e.g., `support_zero` and `support_mono`, among others, are not highlights). I would say the main ones are: `isClosed_support`, `support_mem_ae` and `support_eq_sInter`.

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 12]
```diff
@@ -0,0 +1,285 @@
...
+  simp only [hl.mem_measureSupport, not_forall, not_lt, nonpos_iff_eq_zero, bex_def]
+
+@[simp]
+lemma support_zero : (0 : Measure X).support = ∅ := by
+  ext; simp only [Set.mem_empty_iff_false, iff_false, notMem_support_iff]
+  exact Filter.Eventually.of_forall <| congrFun rfl
+
+/-- The support of the sum of two measures is the union of the supports. -/
+lemma support_add (μ ν : Measure X) :
+  (μ + ν).support = μ.support ∪ ν.support := by
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]:
```suggestion
lemma support_add (μ ν : Measure X) : (μ + ν).support = μ.support ∪ ν.support := by
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 13]
```diff
@@ -0,0 +1,285 @@
...
+  simp_rw [isClosed_iff_frequently, nhds_basis_opens _ |>.mem_measureSupport,
+    nhds_basis_opens _ |>.frequently_iff]
+  grind
+
+lemma isOpen_compl_support {μ : Measure X} : IsOpen μ.supportᶜ :=
+  isOpen_compl_iff.mpr μ.isClosed_support
+
+lemma subset_compl_support_of_isOpen {t : Set X} (ht : IsOpen t) (h : μ t = 0) :
+  t ⊆ μ.supportᶜ := fun _ hx ↦
+  notMem_support_iff_exists.mpr ⟨t, ht.mem_nhds hx, h⟩
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]:
```suggestion
lemma subset_compl_support_of_isOpen {t : Set X} (ht : IsOpen t) (h : μ t = 0) :
    t ⊆ μ.supportᶜ :=
  fun _ hx ↦ notMem_support_iff_exists.mpr ⟨t, ht.mem_nhds hx, h⟩
```
and you're missing the `IsClosed` variant:
```lean
lemma support_subset_of_isClosed {t : Set X} (ht : IsClosed t) (h : t ∈ ae μ) :
    μ.support ⊆ t :=
  Set.compl_subset_compl.mp <| subset_compl_support_of_isOpen ht.isOpen_compl h
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 14]
```diff
@@ -0,0 +1,285 @@
...
+
+/-- A point `x` is in the support of measure `μ` iff any neighborhood of `x` contains a
+subset with positive measure. -/
+lemma mem_support_iff {x : X} : x ∈ μ.support ↔
+    ∃ᶠ u in (𝓝 x).smallSets, 0 < μ u := Iff.rfl
+
+/-- A point `x` is in the support of measure `μ` iff every neighborhood of `x` has positive
+measure. -/
+lemma mem_support_iff_forall (x : X) : x ∈ μ.support ↔ ∀ U ∈ 𝓝 x, 0 < μ U :=
+  Filter.HasBasis.mem_measureSupport <| (𝓝 x).basis_sets
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: dot notation :smiley:
```suggestion
  (𝓝 x).basis_sets.mem_measureSupport
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 15]
```diff
@@ -0,0 +1,285 @@
...
+    (fun _ _ ↦ measure_pos_of_mem_nhds μ)
+
+lemma support_mono {ν : Measure X} (h : μ ≤ ν) : μ.support ≤ ν.support :=
+  fun _ hx ↦ mem_support_iff_forall _ |>.mpr fun _ hU ↦
+    lt_of_lt_of_le (mem_support_iff_forall _ |>.mp hx _ hU) (h _)
+
+lemma AbsolutelyContinuous.support_mono {μ ν : Measure X} (hμν : μ ≪ ν) :
+  μ.support ≤ ν.support :=
+  fun _ hx ↦ mem_support_iff_forall _ |>.mpr fun _ hU ↦
+     zero_lt_iff.mpr <| mt (fun a ↦ hμν a) <| ne_of_gt <| mem_support_iff_forall _ |>.mp hx _ hU
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: You should reverse the order, then use `Filter.Frequently.mp`. If you add these missing absolute continuity API lemmas, then you can golf the part after `.of_forall` to what I have written. Then `support_mono` follows trivially. Also, note that you were using `≤` when you should have used `⊆` (it worked because they are defeq, but not reducibly so), and your style was a bit off (indentation).
```lean
lemma AbsolutelyContinuous.null_mono {μ ν : Measure X} (hμν : μ ≪ ν) ⦃t : Set X⦄
    (ht : ν t = 0) : μ t = 0 :=
  hμν ht

lemma AbsolutelyContinuous.pos_mono {μ ν : Measure X} (hμν : μ ≪ ν) ⦃t : Set X⦄
    (ht : 0 < μ t) : 0 < ν t := by
  contrapose! ht
  simp_all [hμν.null_mono]
```
And then you get:
```suggestion
lemma AbsolutelyContinuous.support_mono {μ ν : Measure X} (hμν : μ ≪ ν) :
    μ.support ⊆ ν.support :=
  fun _ hx ↦ hx.mp <| .of_forall hμν.pos_mono

lemma support_mono {ν : Measure X} (h : μ ≤ ν) : μ.support ⊆ ν.support :=
  h.absolutelyContinuous.support_mono
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 16]
```diff
@@ -0,0 +1,285 @@
...
+
+/-- A point `x` lies outside the support of `μ` iff all of the subsets of one of its neighborhoods
+have measure zero. -/
+lemma notMem_support_iff {x : X} : x ∉ μ.support ↔ ∀ᶠ u in (𝓝 x).smallSets, μ u = 0 := by
+  simp [mem_support_iff]
+
+theorem _root_.Filter.HasBasis.notMem_measureSupport {ι : Sort*} {p : ι → Prop}
+    {s : ι → Set X} {x : X} (hl : (𝓝 x).HasBasis p s) :
+    x ∉ μ.support ↔ ∃ i, p i ∧ μ (s i) = 0 := by
+  simp only [hl.mem_measureSupport, not_forall, not_lt, nonpos_iff_eq_zero, bex_def]
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: This is clearer, still fast, and less prone to breakage due to renaming of lemmas.
```suggestion
  simp [hl.mem_measureSupport]
```
I normally do this when the `simp` is terminal and still fast without squeezing.

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 17]
```diff
@@ -0,0 +1,285 @@
...
+
+@[simp]
+lemma support_zero : (0 : Measure X).support = ∅ := by
+  ext; simp only [Set.mem_empty_iff_false, iff_false, notMem_support_iff]
+  exact Filter.Eventually.of_forall <| congrFun rfl
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]:
```suggestion
lemma support_zero : (0 : Measure X).support = ∅ := by simp [Measure.support]
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 18]
```diff
@@ -0,0 +1,285 @@
...
+lemma support_eq_sInter : μ.support = ⋂₀ {t : Set X | IsClosed t ∧ μ tᶜ = 0} := by
+  ext x
+  simp only [nhds_basis_opens x |>.mem_measureSupport, and_imp, Set.mem_sInter, Set.mem_setOf_eq]
+  rw [← not_iff_not]
+  push_neg
+  constructor
+  · rintro ⟨t, ht, htc, htc1⟩; use tᶜ; rw [← compl_compl t] at htc1 ht
+    exact ⟨htc.isClosed_compl, nonpos_iff_eq_zero.mp htc1, Set.mem_compl_iff tᶜ x |>.mp ht⟩
+  · rintro ⟨t, ht, htc, htc1⟩; use tᶜ
+    exact ⟨Set.mem_compl htc1, ht.isOpen_compl, le_of_eq htc⟩
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: You need to merge master for this proof to work, as it uses [Function.Involutive.image_eq_preimage](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Image.html#Function.Involutive.image_eq_preimage)
```suggestion
  convert congr($(compl_support_eq_sUnion (μ := μ))ᶜ)
  all_goals simp [Set.compl_sUnion, compl_involutive.image_eq_preimage]
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 19]
```diff
@@ -0,0 +1,285 @@
...
+
+open Set
+
+lemma nonempty_inter_support_of_pos {s : Set X} (hμ : 0 < μ s) :
+    (s ∩ μ.support).Nonempty := by
+  by_contra H
+  have :=  LE.le.not_gt <| (OuterMeasureClass.measure_mono μ <| Disjoint.subset_compl_right
+    <| disjoint_iff_inter_eq_empty.mpr <| Set.not_nonempty_iff_eq_empty.mp H).trans
+      <| le_of_eq (measure_compl_support)
+  contradiction
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: accessing the `Disjoint` API immediately makes this a bit easier, although the proof is the same idea. Note also, we have `MeasureTheory.Measure.mono`, and other opportunities for dot notation.
```suggestion
  rw [← Set.not_disjoint_iff_nonempty_inter]
  contrapose! hμ
  exact μ.mono hμ.subset_compl_right |>.trans <| by simp
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 20]
```diff
@@ -0,0 +1,285 @@
...
+
+lemma nullMeasurableSet_compl_support : NullMeasurableSet (μ.supportᶜ) μ :=
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean:159]:
```suggestion
/-- Under the assumption `OpensMeasurableSpace`, this is redundant because
the complement of the support is open, and therefore measurable. -/
lemma nullMeasurableSet_compl_support : NullMeasurableSet (μ.supportᶜ) μ :=
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 21]
```diff
@@ -0,0 +1,285 @@
...
+  NullMeasurableSet.of_null measure_compl_support
+
+@[simp]
+lemma nullMeasurableSet_support : NullMeasurableSet μ.support μ :=
+  NullMeasurableSet.compl_iff.mp nullMeasurableSet_compl_support
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]:
```suggestion
/-- Under the assumption `OpensMeasurableSpace`, this is redundant because
the support is closed, and therefore measurable. -/
lemma nullMeasurableSet_support : NullMeasurableSet μ.support μ :=
  NullMeasurableSet.compl_iff.mp nullMeasurableSet_compl_support
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 22]
```diff
@@ -0,0 +1,285 @@
...
+
+lemma nonempty_support (hμ : μ ≠ 0) : μ.support.Nonempty :=
+   Nonempty.right <| nonempty_inter_support_of_pos <| measure_univ_pos.mpr hμ
+
+lemma nonempty_support_iff : μ.support.Nonempty ↔ μ ≠ 0 :=
+  ⟨fun h e ↦ (not_nonempty_iff_eq_empty.mpr <| congrArg Measure.support e |>.trans
+    <| support_zero) h, fun h ↦ nonempty_support h⟩
+
+end Lindelof
+section Restrict
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]:
```suggestion
end Lindelof

section Restrict
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 23]
```diff
@@ -0,0 +1,285 @@
...
+    x ∈ (μ.restrict s).support ↔ ∃ᶠ u in (𝓝[s] x).smallSets, 0 < μ u := by
+  rw [nhds_basis_opens x |>.mem_measureSupport,
+    Filter.HasBasis.frequently_smallSets (hl := nhdsWithin_basis_open x s) (hq := pos_mono μ)] at *
+  constructor
+  all_goals
+  · intro h i hi
+    have D := h i hi
+    rw [restrict_apply] at *
+    · exact D
+    · exact IsOpen.measurableSet hi.2
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: dot notation, and grind can solve that for you.
```suggestion
    (nhdsWithin_basis_open x s).frequently_smallSets μ.pos_mono] 
  grind [IsOpen.measurableSet, restrict_apply]
```
also, I recommend putting this as the *first* result in the the `Restrict` section.

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 24]
```diff
@@ -0,0 +1,285 @@
...
+
+lemma interior_inter_support [OpensMeasurableSpace X] {s : Set X} :
+    interior s ∩ μ.support ⊆ (μ.restrict s).support := by
+  intro x ⟨⟨y, hy1, hy2⟩, hxp⟩
+  apply mem_support_restrict.mpr
+  rw [Filter.HasBasis.frequently_smallSets (hl := nhdsWithin_basis_open x s) (hq := pos_mono μ)]
+  intro V ⟨hs1, hs2⟩
+  rw [nhds_basis_opens x |>.mem_measureSupport] at hxp
+  exact lt_of_lt_of_le (hxp (V ∩ y) ⟨Set.mem_inter hs1 hy2, IsOpen.inter hs2 hy1.1⟩)
+    <| OuterMeasureClass.measure_mono μ <| Set.inter_subset_inter (fun ⦃a⦄ a ↦ a) hy1.2
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: Your proof is fine, but this is slightly cleaner. Note the use of dot notation and `gcongr` especially.
```suggestion
  rintro x ⟨hxs, hxμ⟩
  rw [mem_support_restrict, (nhdsWithin_basis_open x s).frequently_smallSets μ.pos_mono]
  rw [(nhds_basis_opens x).mem_measureSupport] at hxμ
  rintro u ⟨hxu, hu⟩
  apply hxμ (u ∩ interior s) ⟨⟨hxu, hxs⟩, hu.inter isOpen_interior⟩ |>.trans_le
  gcongr
  exact interior_subset
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 25]
```diff
@@ -0,0 +1,285 @@
...
+
+-- Prove the following directly, without appeal to `support_restrict_subset_closure`
+
+-- SO THE PROOF BELOW MUST BE REPLACED!
+
+lemma support_restrict_subset_closure_inter_support [OpensMeasurableSpace X] {s : Set X} :
+  (μ.restrict s).support ⊆ closure s ∩ μ.support :=
+  Set.subset_inter (support_restrict_subset_closure) (support_mono restrict_le_self)
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: And then you don't need the other lemma:
```suggestion
lemma support_restrict_subset [OpensMeasurableSpace X] {s : Set X} :
    (μ.restrict s).support ⊆ closure s ∩ μ.support := by
  refine Set.subset_inter (support_subset_of_isClosed isClosed_closure ?_)
    (support_mono restrict_le_self)
  rw [mem_ae_iff, μ.restrict_apply isClosed_closure.isOpen_compl.measurableSet]
  convert μ.empty
  exact subset_closure.disjoint_compl_left.eq_bot
```
Also, you should just make `[OpensMeasurableSpace X]` a `variable` in this section.

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 26]
```diff
@@ -0,0 +1,285 @@
...
+import Mathlib.MeasureTheory.Measure.MeasureSpace
+import Mathlib.MeasureTheory.Measure.OpenPos
+import Mathlib.MeasureTheory.Measure.MeasureSpaceDef
+import Mathlib.Topology.Defs.Filter
+import Mathlib.Order.Filter.SmallSets
+
+/-!
+# Support of a Measure
+
+This file develops the theory of the **topological support** of a measure `μ` on a
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: Is the adjective "topological" generally used in the literature? I didn't think it was. If it's not, then definitely accept this suggestion, especially since we're not calling it the topological support here. If it *is* used in the literature, then we have to justify why we're not naming it that.
```suggestion
This file develops the theory of the **support** of a measure `μ` on a
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/Measure/Support.lean (hunk 23 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Measure/Support.lean]: Wow!!!

File: Mathlib/MeasureTheory/Measure/Support.lean (hunk 19 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Measure/Support.lean]: Wow. Slick!

File: Mathlib/MeasureTheory/Measure/Support.lean (hunk 12 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Measure/Support.lean]: Face palm!

File: Mathlib/MeasureTheory/Measure/Support.lean (hunk 23 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Measure/Support.lean]: Hmm grind didn't work...let me see what is happening with this...

File: Mathlib/MeasureTheory/Measure/Support.lean (hunk 26 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Measure/Support.lean]: I've found it in some places...but I think simply calling it support is more standard...so I'll just take this.

File: Mathlib/MeasureTheory/Measure/Support.lean (hunk 11 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Measure/Support.lean:26]: OK. Pared it down.

File: Mathlib/MeasureTheory/Measure/Support.lean (hunk 23 above)
Comment (j-loreaux) [reply Mathlib/MeasureTheory/Measure/Support.lean]: You removed the first rewrite.

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 27]
```diff
@@ -0,0 +1,241 @@
...
+  complements have measure zero.
+* `isClosed_support` : the support is a closed set.
+* `support_mem_ae_of_isLindelof` and `support_mem_ae` : under Lindelöf (or hereditarily
+  Lindelöf) hypotheses, the support is conull.
+
+## Notation
+
+* `μ.support` : the support of measure `μ`.
+* `(𝓝 x).smallSets` : the frequently-small-sets filter used in the filter-theoretic definition.
+
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: This isn't notation.
```suggestion
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 28]
```diff
@@ -0,0 +1,241 @@
...
+## Tags
+
+measure theory, support, filter, Lindelöf, hereditarily Lindelöf,
+absolute continuity, restriction, sum of measures, null measurable, conull
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: I would again only include the highlight keywords.
```suggestion
measure, support, Lindelöf
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 29]
```diff
@@ -0,0 +1,241 @@
...
+We provide the definition in terms of the filter-theoretic equivalent
+`∃ᶠ u in (𝓝 x).smallSets, 0 < μ u`. -/
+protected def support (μ : Measure X) : Set X := {x : X | ∃ᶠ u in (𝓝 x).smallSets, 0 < μ u}
+
+variable {μ : Measure X}
+
+lemma pos_mono {α : Type*} [MeasurableSpace α]
+    (μ : Measure α) ⦃s t : Set α⦄ (h : s ⊆ t) (hs : 0 < μ s) :
+    0 < μ t :=
+  hs.trans_le <| μ.mono h
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: This should be in a different file, likely right next to `measure_mono_null`.

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 30]
```diff
@@ -0,0 +1,241 @@
...
+    using notMem_support_iff_exists.mp hs
+
+variable [HereditarilyLindelofSpace X]
+
+/-- In a hereditarily Lindelöf space, the support of a measure is conull. -/
+lemma support_mem_ae : μ.support ∈ ae μ :=
+  support_mem_ae_of_isLindelof <| HereditarilyLindelof_LindelofSets μ.supportᶜ
+
+@[simp]
+lemma measure_compl_support : μ (μ.support)ᶜ = 0 := support_mem_ae
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]:
```suggestion
lemma measure_compl_support : μ μ.supportᶜ = 0 := support_mem_ae
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 31]
```diff
@@ -0,0 +1,241 @@
...
+variable {X : Type*} [MeasurableSpace X]
+
+lemma AbsolutelyContinuous.null_mono {μ ν : Measure X} (hμν : μ ≪ ν) ⦃t : Set X⦄
+    (ht : ν t = 0) : μ t = 0 :=
+  hμν ht
+
+lemma AbsolutelyContinuous.pos_mono {μ ν : Measure X} (hμν : μ ≪ ν) ⦃t : Set X⦄
+    (ht : 0 < μ t) : 0 < ν t := by
+  contrapose! ht
+  simp_all [hμν.null_mono]
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: These don't belong here. They should go in the file which defines absolute continuity of measures.

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 32]
```diff
@@ -0,0 +1,241 @@
...
+Copyright (c) 2025 Jon Bannon. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jon Bannon, Jireh Loreaux
+-/
+
+import Mathlib.MeasureTheory.Measure.MeasureSpace
+import Mathlib.MeasureTheory.Measure.OpenPos
+import Mathlib.MeasureTheory.Measure.MeasureSpaceDef
+import Mathlib.Topology.Defs.Filter
+import Mathlib.Order.Filter.SmallSets
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]: Please minimize these imports.

File: Mathlib/MeasureTheory/Measure/Support.lean (hunk 30 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Measure/Support.lean]: OMG...they are killing me. I have to learn to excise these as I go...

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 33]
```diff
@@ -0,0 +1,211 @@
...
+We provide the definition in terms of the filter-theoretic equivalent
+`∃ᶠ u in (𝓝 x).smallSets, 0 < μ u`. -/
+protected def support (μ : Measure X) : Set X := {x : X | ∃ᶠ u in (𝓝 x).smallSets, 0 < μ u}
+
+variable {μ : Measure X}
+
+theorem _root_.Filter.HasBasis.mem_measureSupport {ι : Sort*} {p : ι → Prop}
+    {s : ι → Set X} {x : X} (hl : (𝓝 x).HasBasis p s) :
+    x ∈ μ.support ↔ ∀ (i : ι), p i → 0 < μ (s i) :=
+  Filter.HasBasis.frequently_smallSets (hl := hl) pos_mono
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]:
```suggestion
  hl.frequently_smallSets pos_mono
```

File: Mathlib/MeasureTheory/Measure/Support.lean [hunk 34]
```diff
@@ -0,0 +1,211 @@
...
+    ∃ᶠ u in (𝓝 x).smallSets, 0 < μ u := Iff.rfl
+
+/-- A point `x` is in the support of measure `μ` iff every neighborhood of `x` has positive
+measure. -/
+lemma mem_support_iff_forall (x : X) : x ∈ μ.support ↔ ∀ U ∈ 𝓝 x, 0 < μ U :=
+  (𝓝 x).basis_sets.mem_measureSupport
+
+lemma support_eq_univ [μ.IsOpenPosMeasure] : μ.support = Set.univ :=
+  Set.ext fun _ ↦ mem_support_iff_forall _ |>.trans <| Iff.intro (fun _ ↦ trivial)
+    (fun _ _ ↦ measure_pos_of_mem_nhds μ)
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Support.lean]:
```suggestion
lemma support_eq_univ [μ.IsOpenPosMeasure] : μ.support = Set.univ := by
  simpa [Set.eq_univ_iff_forall, mem_support_iff_forall] using fun _ _ ↦ μ.measure_pos_of_mem_nhds
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! Please wait for CI to finish before merging.

bors d+
